* Z:\mnt\design.r\spice\examples\4700.asc
V1 N001 0 12
C1 OUT1 0 330µ X2
R1 OUT1 0 20m
C2 OUT1 0 100µ X3
C3 OUT0 0 330µ X2
R2 OUT0 0 30m
C4 OUT0 0 100µ X3
C5 0 N003 1n
C6 0 N002 1n
R3 N006 N007 10K
R4 N004 N007 10K
R5 N005 N007 4.99K
XU1 OUT0 0 MP_01 OUT1 NC_02 N003 MP_03 OUT0 NC_04 NC_05 N005 MP_06 MP_07 MP_08 MP_09 MP_10 N006 N004 MP_11 MP_12 NC_13 NC_14 MP_15 NC_16 NC_17 MP_18 MP_19 N007 N002 NC_20 0 OUT1 NC_21 NC_22 MP_23 MP_24 MP_25 NC_26 N001 NC_27 0 MP_28 MP_29 MP_30 NC_31 MP_32 MP_33 NC_34 0 MP_35 NC_36 N001 N001 LTM4700
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTM4700. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FSWPH_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FSWPH_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low, and 1 for high;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;\n     gm -- transconductance of the error amplifier. It must be between 1m mho and 5.73m mho;\n     Rth -- Compensation resistor. It must be set between 0k ohms and 62k ohms;\n     Sync - value 0 for configuring module as Master, value 1 for Slave
.tran 1.2m startup
.lib LTM4700.sub
.backanno
.end
